### PR TITLE
feat: add SMT-LIB overflow on addition for bitvectors `BitVec.(uadd_overflow, sadd_overflow, uadd_overflow_eq, sadd_overflow_eq)` and support theorems

### PR DESCRIPTION
**Pull request by luisacicolini**
This PR adds SMT-LIB operators to detect overflow `BitVec.(uadd_overflow, sadd_overflow)`, according to the definitions [here](https://github.com/SMT-LIB/SMT-LIB-2/blob/2.7/Theories/FixedSizeBitVectors.smt2), and the theorems proving equivalence of such definitions with the `BitVec` library functions (`uaddOverflow_eq`, `saddOverflow_eq`). Support theorems for these proofs are  `BitVec.toNat_mod_cancel_of_lt, BitVec.toInt_lt, BitVec.le_toInt, Int.bmod_neg_iff`. The PR also includes a set of tests.

### CODE REVIEW

**Comment by luisacicolini** [comment]
changelog-library

**Comment by luisacicolini** [comment]
changelog-library

**Comment by kim-em** [comment]
What are your plans for adding theorems about these?

**Comment by luisacicolini** [comment]
Ideally supporting them in bvdecide - although there are some proofs missing (they're taking me more time than I expected), so I'll draft the PR for now and open it when the proofs are done!

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -3536,6 +3536,41 @@ theorem getLsbD_intMax (w : Nat) : (intMax w).getLsbD i = decide (i + 1 < w) :=
...
+theorem Int.bmod_two_pow_neg_iff {w : Nat} {x : Int} (h1 : x < 2 ^ w) (h2 : -(2 ^ w) ≤ x) :
+    (x.bmod (2 ^ w)) < 0 ↔ (-(2 ^ w) ≤ 2 * x ∧ x < 0) ∨ (2 ^ w ≤ 2 * x) := by
+  simp only [Int.bmod_def, Nat.cast_pow, Nat.cast_ofNat]
+  by_cases xpos : 0 ≤ x
+  · rw [Int.emod_eq_of_lt (by omega) (by omega)]; omega
+  · rw [Int.emod_eq_add_self_emod, Int.emod_eq_of_lt (by omega) (by omega)]; omega
+
+theorem uadd_overflow_eq {w : Nat} (x y : BitVec w) :
+    uadd_overflow x y = BitVec.carry w x y false := by
+  simp only [uadd_overflow, BitVec.carry]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:3551]:
```suggestion
theorem uaddOverflow_eq {w : Nat} (x y : BitVec w) :
    uaddOverflow x y = BitVec.carry w x y false := by
  simp only [uaddOverflow, BitVec.carry]
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -3536,6 +3536,41 @@ theorem getLsbD_intMax (w : Nat) : (intMax w).getLsbD i = decide (i + 1 < w) :=
...
+  by_cases h : 2 ^ w ≤ x.toNat + y.toNat <;> simp [h]
+
+theorem sadd_overflow_eq {w : Nat} (x y : BitVec w) :
+    sadd_overflow x y = true ↔ x.msb = y.msb ∧ ¬(x + y).msb = x.msb := by
+  simp only [sadd_overflow]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:3556]:
```suggestion
theorem saddOverflow_eq {w : Nat} (x y : BitVec w) :
    saddOverflow x y = true ↔ x.msb = y.msb ∧ ¬(x + y).msb = x.msb := by
  simp only [saddOverflow]
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 3]
```diff
@@ -3536,6 +3536,41 @@ theorem getLsbD_intMax (w : Nat) : (intMax w).getLsbD i = decide (i + 1 < w) :=
...
+  · revert x y
+    decide
+  · have h : 0 < w' + 1 := by omega
+    generalize w' + 1 = w at *
+    have := le_toInt x
+    have := le_toInt y
+    have := toInt_lt y
+    have := toInt_lt x
+    have := toInd_add_toInt_lt_two_pow x y
+    have := neg_two_pow_le_toInd_add_toInt x y
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:3567]: Does this compile? AFAIU, some of the theorems above are not yet part of lean.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 4]
```diff
@@ -3536,6 +3536,41 @@ theorem getLsbD_intMax (w : Nat) : (intMax w).getLsbD i = decide (i + 1 < w) :=
   · simp [h]
   · rw [Nat.sub_add_cancel (Nat.two_pow_pos (w - 1)), Nat.two_pow_pred_mod_two_pow (by omega)]
 
+/-! ### Overflow definitions -/
+
+
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:3541]:
```suggestion

```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 5]
```diff
@@ -3536,6 +3536,41 @@ theorem getLsbD_intMax (w : Nat) : (intMax w).getLsbD i = decide (i + 1 < w) :=
...
+    have := toInt_lt y
+    have := toInt_lt x
+    have := toInd_add_toInt_lt_two_pow x y
+    have := neg_two_pow_le_toInd_add_toInt x y
+    simp only [ge_iff_le, Bool.or_eq_true, decide_eq_true_eq, BitVec.msb_eq_toInt,
+      decide_eq_decide, BitVec.toInt_add]
+    rw [bmod_two_pow_neg_iff (by omega) (by omega)]
+    rw_mod_cast [← @Nat.two_pow_pred_add_two_pow_pred w (by omega)] at *
+    omega
+
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion

```

File: src/Std/Tactic/BVDecide/Normalize/BitVec.lean [hunk 6]
```diff
@@ -309,5 +309,41 @@ theorem BitVec.udiv_ofNat_eq_of_lt (w : Nat) (x : BitVec w) (n : Nat) (k : Nat)
...
+    have := le_toInt y
+    have := toInt_lt y
+    have := toInt_lt x
+    have := toInd_add_toInt_lt_two_pow x y
+    have := neg_two_pow_le_toInd_add_toInt x y
+    simp only [ge_iff_le, Bool.or_eq_true, decide_eq_true_eq, BitVec.msb_eq_toInt,
+      decide_eq_decide, BitVec.toInt_add]
+    rw [bmod_two_pow_neg_iff (by omega) (by omega)]
+    rw_mod_cast [← @Nat.two_pow_pred_add_two_pow_pred w (by omega)] at *
+    omega
```
Comment (tobiasgrosser) [inline src/Std/Tactic/BVDecide/Normalize/BitVec.lean:345]: @luisacicolini, keep these theorems in `Lemmas.lean`. However, you should add a here lines `attribute [bv_normalize] BitVec.saddOverflow_eq` ....

File: src/Init/Data/BitVec/Lemmas.lean [hunk 7]
```diff
@@ -542,6 +542,62 @@ theorem eq_zero_or_eq_one (a : BitVec 1) : a = 0#1 ∨ a = 1#1 := by
 theorem toInt_zero {w : Nat} : (0#w).toInt = 0 := by
   simp [BitVec.toInt, show 0 < 2^w by exact Nat.two_pow_pos w]
 
+theorem toInt_lt {w : Nat} (x : BitVec w) : x.toInt < 2 ^ (w - 1) := by
+  simp only [BitVec.toInt, Nat.cast_pow]
+  by_cases hw : w = 0
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:547]: Would using `cases` or `rcases` be easier here?

Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:547]: it should, will give it a try

File: src/Std/Tactic/BVDecide/Normalize/BitVec.lean [hunk 8]
```diff
@@ -319,6 +319,10 @@ attribute [bv_normalize] BitVec.umod_zero
 attribute [bv_normalize] BitVec.umod_one
 attribute [bv_normalize] BitVec.umod_eq_and
 
+attribute [bv_normalize] BitVec.saddOverflow_eq
+attribute [bv_normalize] BitVec.uaddOverflow_eq
+
+
```
Comment (tobiasgrosser) [inline src/Std/Tactic/BVDecide/Normalize/BitVec.lean:325]:
```suggestion

```

**Comment by luisacicolini** [comment]
Unfortunately, some theorems live in Mathlib and quite a few things break as a consequence. I'm specializing some of these to see whether we can continue using them, but would be great to just avoid them (and find alternative proof strategies)

File: src/Init/Data/BitVec/Lemmas.lean [hunk 9]
```diff
@@ -3579,7 +3635,6 @@ theorem getLsbD_intMax (w : Nat) : (intMax w).getLsbD i = decide (i + 1 < w) :=
   · simp [h]
   · rw [Nat.sub_add_cancel (Nat.two_pow_pos (w - 1)), Nat.two_pow_pred_mod_two_pow (by omega)]
 
-
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:3582]: This seems unrelated.

**Comment by luisacicolini** [comment]
Fixed what I could, I am now stuck on `bmod_two_pow_neg_iff`, @alexkeizer if you could take a look it would be great!

File: src/Init/Data/Int/DivModLemmas.lean [hunk 10]
```diff
@@ -1348,3 +1348,16 @@ theorem bmod_natAbs_plus_one (x : Int) (w : 1 < x.natAbs) : bmod x (x.natAbs + 1
...
+  add_emod_self.symm
+
+theorem bmod_two_pow_neg_iff {w : Nat} {x : Int} (h1 : x < 2 ^ w) (h2 : -(2 ^ w) ≤ x) :
+    (x.bmod (2 ^ w)) < 0 ↔ (-(2 ^ w) ≤ 2 * x ∧ x < 0) ∨ (2 ^ w ≤ 2 * x) := by
+
+  sorry
+  -- simp only [Int.bmod_def, Nat.cast_pow, Nat.cast_ofNat]
+  -- by_cases xpos : 0 ≤ x
+  -- · rw [Int.emod_eq_of_lt (by omega) (by omega)]; omega
+  -- · rw [Int.emod_eq_add_self_emod, Int.emod_eq_of_lt (by omega) (by omega)]; omega
```
Comment (tobiasgrosser) [inline src/Init/Data/Int/DivModLemmas.lean:1363]: Why don't you pull the missing theorems from mathlib?

File: src/Std/Tactic/BVDecide/Normalize/BitVec.lean [hunk 11]
```diff
@@ -319,6 +319,9 @@ attribute [bv_normalize] BitVec.umod_zero
 attribute [bv_normalize] BitVec.umod_one
 attribute [bv_normalize] BitVec.umod_eq_and
 
+attribute [bv_normalize] BitVec.saddOverflow_eq
+attribute [bv_normalize] BitVec.uaddOverflow_eq
+
```
Comment (tobiasgrosser) [inline src/Std/Tactic/BVDecide/Normalize/BitVec.lean:324]: We still need test cases of bv_normalize.

File: src/Init/Data/Int/DivModLemmas.lean [hunk 12]
```diff
@@ -1348,3 +1348,16 @@ theorem bmod_natAbs_plus_one (x : Int) (w : 1 < x.natAbs) : bmod x (x.natAbs + 1
           all_goals decide
     · exact ofNat_nonneg x
     · exact succ_ofNat_pos (x + 1)
+
+-- stolen from Mathlib as-is
+theorem emod_eq_add_self_emod {a b : Int} : a % b = (a + b) % b :=
```
Comment (tobiasgrosser) [inline src/Init/Data/Int/DivModLemmas.lean:1353]: Drop this comment, instead add it to the PR message.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 13]
```diff
@@ -542,6 +542,57 @@ theorem eq_zero_or_eq_one (a : BitVec 1) : a = 0#1 ∨ a = 1#1 := by
...
+      norm_cast
+      omega
+    · simp only [Nat.add_one_sub_one, Nat.zero_lt_succ, Nat.mul_lt_mul_left, Int.natCast_mul,
+        Int.Nat.cast_ofNat_Int]
+      norm_cast
+      omega
+
+theorem toInd_add_toInt_lt_two_pow (x y : BitVec w) :
+    (x.toInt + y.toInt) < 2 ^ w := by
+  rcases w with _|w'
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:574]:
```suggestion
    x.toInt + y.toInt < 2 ^ w := by
  rcases w with _|w'
```

File: src/Init/Data/Int/DivModLemmas.lean (hunk 10 above)
Comment (luisacicolini) [reply src/Init/Data/Int/DivModLemmas.lean:1363]: All the theorems right now exist (the ones I pulled suffice), but `omega` fails to solve some of the hypotheses

File: src/Init/Data/BitVec/Lemmas.lean [hunk 14]
```diff
@@ -542,6 +542,57 @@ theorem eq_zero_or_eq_one (a : BitVec 1) : a = 0#1 ∨ a = 1#1 := by
...
+    · simp only [Nat.add_one_sub_one, Nat.zero_lt_succ, Nat.mul_lt_mul_left, Int.natCast_mul,
+        Int.Nat.cast_ofNat_Int]
+      norm_cast; omega
+
+theorem le_toInt {w : Nat} (x : BitVec w) : -2 ^ (w - 1) ≤ x.toInt := by
+  simp only [BitVec.toInt]
+  rcases w with _|w'
+  · omega
+  · rw [← Nat.two_pow_pred_add_two_pow_pred (by omega), ← Nat.two_mul]
+    by_cases h : 2 * x.toNat < 2 * 2 ^ (w' - 1) -- i tried using split here but the final omega stops working?! im confused
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:562]: I tried this and it compiles for me without any problems.

File: tests/lean/run/bv_decide_rewriter.lean [hunk 15]
```diff
@@ -87,6 +87,11 @@ example {x : BitVec 16} : x / (BitVec.twoPow 16 2) = x >>> 2 := by bv_normalize
 example {x : BitVec 16} : x / (BitVec.ofNat 16 8) = x >>> 3 := by bv_normalize
 example {x y : Bool} (h1 : x && y) : x || y := by bv_normalize
 example (a b c: Bool) : (if a then b else c) = (if !a then c else b) := by bv_normalize
+example (x y : BitVec 16) : BitVec.uaddOverflow x y = BitVec.carry 16 x y false := by bv_normalize
```
Comment (tobiasgrosser) [inline tests/lean/run/bv_decide_rewriter.lean:90]: I guess this won't work anymore?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 16]
```diff
@@ -547,42 +547,31 @@ theorem toInt_lt {w : Nat} (x : BitVec w) : x.toInt < 2 ^ (w - 1) := by
...
   rcases w with _|w'
   · simp [BitVec.eq_nil x, BitVec.eq_nil y]
-  · norm_cast
-    rw [←Nat.two_pow_pred_add_two_pow_pred (by omega)]
-    have hx := toInt_lt x
-    have hy := toInt_lt y
-    push_cast
-    rw [Nat.add_sub_cancel] at hx hy
+  · have hx := toInt_lt x; rw [Nat.add_sub_cancel] at *
+    have hy := toInt_lt y; rw [Nat.add_sub_cancel] at *
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:566]:
```suggestion
  · have hx := toInt_lt x;
    have hy := toInt_lt y;
    rw [Nat.add_sub_cancel] at hx hy
```

or is the `at *` really needed?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 17]
```diff
@@ -542,6 +542,38 @@ theorem eq_zero_or_eq_one (a : BitVec 1) : a = 0#1 ∨ a = 1#1 := by
...
+    simp only [Nat.zero_lt_succ, Nat.mul_lt_mul_left, Int.natCast_mul, Int.Nat.cast_ofNat_Int]
+    norm_cast; omega
+
+theorem le_toInt {w : Nat} (x : BitVec w) : -2 ^ (w - 1) ≤ x.toInt := by
+  simp only [BitVec.toInt]
+  rcases w with _|w'
+  · omega
+  · rw [← Nat.two_pow_pred_add_two_pow_pred (by omega), ← Nat.two_mul, Nat.add_sub_cancel]
+    simp only [Nat.zero_lt_succ, Nat.mul_lt_mul_left, Int.natCast_mul, Int.Nat.cast_ofNat_Int];
+    norm_cast; omega
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:559]:
```suggestion
    simp only [Nat.zero_lt_succ, Nat.mul_lt_mul_left, Int.natCast_mul, Int.Nat.cast_ofNat_Int]
    norm_cast; omega
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 18]
```diff
@@ -1230,4 +1230,38 @@ theorem shiftRight_eq_ushiftRightRec (x : BitVec w₁) (y : BitVec w₂) :
...
+    have := (@Nat.pow_lt_pow_iff_right 2 n m (by omega)).mpr (by omega)
+    omega
+  )
+
+theorem uaddOverflow_eq {w : Nat} (x y : BitVec w) :
+    uaddOverflow x y = (x.setWidth (w + 1) + y.setWidth (w + 1)).msb := by
+  simp [uaddOverflow, msb_add, msb_setWidth, carry]
+
+theorem saddOverflow_eq {w : Nat} (x y : BitVec w) :
+    saddOverflow x y ↔ (x.msb = y.msb ∧ ¬(x + y).msb = x.msb) := by
```
Comment (hargoniX) [inline src/Init/Data/BitVec/Bitblast.lean:1247]: This statement also suffers from the `= true` coercion issue that we discussed for `uaddOverflow_eq`.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 19]
```diff
@@ -1230,4 +1230,39 @@ theorem shiftRight_eq_ushiftRightRec (x : BitVec w₁) (y : BitVec w₂) :
...
   · simp [ushiftRightRec_eq]
 
+/-! ### Overflow definitions -/
+
+
+@[simp] theorem toNat_mod_lt_eq {x : BitVec n} (h : n < m): x.toNat % (2 ^ m) = x.toNat :=
+  Nat.mod_eq_of_lt (by
+    have := (@Nat.pow_lt_pow_iff_right 2 n m (by omega)).mpr (by omega)
+    omega
+  )
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:1240]:
```suggestion
@[simp] theorem toNat_mod_lt_eq {x : BitVec n} (h : n < m) : x.toNat % (2 ^ m) = x.toNat := by
 have : 2 ^ n < 2 ^ m := Nat.pow_lt_pow_of_lt (by omega) h
 exact Nat.mod_eq_of_lt (by omega)
```

This theorem should probably move below `toNat_mod_cancel`.

**Review by tobiasgrosser — APPROVED** [review]
This looks good to go from my side.

File: src/Init/Data/BitVec/Bitblast.lean (hunk 19 above)
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Bitblast.lean:1240]: Also double-check if this is actually still needed.

**Comment by luisacicolini** [comment]
awaiting-review

File: src/Init/Data/BitVec/Lemmas.lean [hunk 20]
```diff
@@ -326,6 +326,10 @@ theorem getLsbD_ofNat (n : Nat) (x : Nat) (i : Nat) :
   simp only [toNat_eq, toNat_ofNat, Nat.zero_mod] at h
   rw [Nat.mod_eq_of_lt (by omega)]
 
+@[simp] theorem toNat_mod_cancel_of_lt {x : BitVec n} (h : n < m) : x.toNat % (2 ^ m) = x.toNat := by
+ have : 2 ^ n < 2 ^ m := Nat.pow_lt_pow_of_lt (by omega) h
```
Comment (hargoniX) [inline src/Init/Data/BitVec/Lemmas.lean:330]: This needs to be indented

File: src/Init/Data/BitVec/Lemmas.lean [hunk 21]
```diff
@@ -542,6 +546,40 @@ theorem eq_zero_or_eq_one (a : BitVec 1) : a = 0#1 ∨ a = 1#1 := by
...
+theorem toInd_add_toInt_lt_two_pow {x y : BitVec w} :
+    x.toInt + y.toInt < 2 ^ w := by
+  rcases w with _|w'
+  · simp [BitVec.eq_nil x, BitVec.eq_nil y]
+  · have hx := toInt_lt (x := x)
+    have hy := toInt_lt (x := y)
+    rw [Nat.add_sub_cancel] at hx hy
+    omega
+
+theorem neg_two_pow_le_toInd_add_toInt {x y : BitVec w} :
```
Comment (hargoniX) [inline src/Init/Data/BitVec/Lemmas.lean:574]: typo

File: src/Init/Data/BitVec/Basic.lean [hunk 22]
```diff
@@ -669,6 +669,21 @@ def ofBoolListLE : (bs : List Bool) → BitVec bs.length
 | [] => 0#0
 | b :: bs => concat (ofBoolListLE bs) b
 
+/-! ## Overflow -/
+
+/-- Overflow predicate for unsigned addition modulo 2^w.
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Basic.lean:674]:
```suggestion
/-- `uaddOverflow x y` returns `true` if addition of `x` and `y` results in *unsigned* overflow.
```

I like to be explicit in docstrings, and "Overflow predicate" feels a little vague still

File: src/Init/Data/BitVec/Basic.lean [hunk 23]
```diff
@@ -669,6 +669,21 @@ def ofBoolListLE : (bs : List Bool) → BitVec bs.length
...
+
+  SMT-Lib name: `bvuaddo`.
+-/
+def uaddOverflow {w : Nat} (x y : BitVec w) : Bool := x.toNat + y.toNat ≥ 2 ^ w
+
+/-- Overflow predicate for signed addition on w-bit 2's complement.
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Basic.lean:680]:
```suggestion
/-- `saddOverflow x y` returns `true` if addition of `x` and `y` results in *signed* overflow,
treating `x` and `y` as 2's complement signed bitvectors.
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 24]
```diff
@@ -1230,4 +1230,32 @@ theorem shiftRight_eq_ushiftRightRec (x : BitVec w₁) (y : BitVec w₂) :
   · simp [of_length_zero]
   · simp [ushiftRightRec_eq]
 
+/-! ### Overflow definitions -/
+
+theorem uaddOverflow_eq {w : Nat} (x y : BitVec w) :
+    uaddOverflow x y = (x.setWidth (w + 1) + y.setWidth (w + 1)).msb := by
+  simp [uaddOverflow, msb_add, msb_setWidth, carry]
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Bitblast.lean:1237]:
```suggestion
/-- Unsigned addition overflows iff the final carry bit of the addition circuit is `true`. -/
theorem uaddOverflow_eq {w : Nat} (x y : BitVec w) :
    uaddOverflow x y = (x.setWidth (w + 1) + y.setWidth (w + 1)).msb := by
  simp [uaddOverflow, msb_add, msb_setWidth, carry]
```

**Review by alexkeizer — COMMENTED** [review]
Some suggestions for more explicit docstring; feel to free to adapt/ignore

File: src/Init/Data/BitVec/Bitblast.lean [hunk 25]
```diff
@@ -1230,4 +1230,35 @@ theorem shiftRight_eq_ushiftRightRec (x : BitVec w₁) (y : BitVec w₂) :
...
+        (x.bmod m) < 0 ↔ (-(m / 2) ≤ x ∧ x < 0) ∨ ((m + 1) / 2 ≤ x) := by
+      simp only [Int.bmod_def]
+      by_cases xpos : 0 ≤ x
+      · rw [Int.emod_eq_of_lt xpos (by omega)]; omega
+      · rw [Int.add_emod_self.symm, Int.emod_eq_of_lt (by omega) (by omega)]; omega
+    simp only [← decide_or, msb_eq_toInt, decide_beq_decide, toInt_add, ← decide_not, ← decide_and,
+      decide_eq_decide]
+    rw [bmod_neg_iff (by rw [← Nat.two_pow_pred_add_two_pow_pred (by omega)]; push_cast; omega)
+                     (by rw [← Nat.two_pow_pred_add_two_pow_pred (by omega)]; push_cast; omega),
+        ← @Nat.two_pow_pred_add_two_pow_pred (w + 1) (by omega), Nat.add_one_sub_one] at *
```
Comment (bollu) [inline src/Init/Data/BitVec/Bitblast.lean:1260]: I wish I could extract out a nice lemma out of this, but I'm sadly not sure what it should be. I suggest we get some more experience proving these theorems, and then consider a refactor of this part of the proof.

**Review by bollu — APPROVED** [review]
LGTM, but I wonder if @kim-em has a cleaner proof strategy for `saddOverflow_eq`. I'd be happy to clean up the proof in a later PR, once we have a bit more experience with these kinds of overflow proofs, so we can design a nice API.

**Comment by tobiasgrosser** [comment]
awaiting-author

File: src/Init/Data/BitVec/Bitblast.lean [hunk 26]
```diff
@@ -1230,4 +1230,35 @@ theorem shiftRight_eq_ushiftRightRec (x : BitVec w₁) (y : BitVec w₂) :
...
+theorem saddOverflow_eq {w : Nat} (x y : BitVec w) :
+    saddOverflow x y = (x.msb == y.msb && !((x + y).msb == x.msb)) := by
+  simp only [saddOverflow]
+  rcases w with _|w
+  · revert x y; decide
+  · simp [decide_eq_true]
+    have := le_toInt (x := x); have := toInt_lt (x := x)
+    have := le_toInt (x := y); have := toInt_lt (x := y)
+    have := toInt_add_toInt_lt (x := x) (y := y)
+    have := le_toInt_add_toInt (x := x) (y := y)
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:1249]: The previous two lines are dead-code. Let me see if I can come up with a simpler proof.

**Comment by luisacicolini** [comment]
lgtm!

File: src/Init/Data/BitVec/Bitblast.lean [hunk 27]
```diff
@@ -1230,6 +1230,32 @@ theorem shiftRight_eq_ushiftRightRec (x : BitVec w₁) (y : BitVec w₂) :
...
+  rcases w with _|w
+  · revert x y; decide
+  · have := le_toInt (x := x); have := toInt_lt (x := x)
+    have := le_toInt (x := y); have := toInt_lt (x := y)
+    have bmod_neg_iff {m : Nat} {x : Int} (h2 : -m ≤ x) (h1 : x < m) :
+        (x.bmod m) < 0 ↔ (-(m / 2) ≤ x ∧ x < 0) ∨ ((m + 1) / 2 ≤ x) := by
+      simp only [Int.bmod_def]
+      by_cases xpos : 0 ≤ x
+      · rw [Int.emod_eq_of_lt xpos (by omega)]; omega
+      · rw [Int.add_emod_self.symm, Int.emod_eq_of_lt (by omega) (by omega)]; omega
```
Comment (bollu) [inline src/Init/Data/BitVec/Bitblast.lean:1252]: It would be nice to learn how to extract out a reusable lemma from this, but I'm happy to leave that as a task we perform once we get some more experience with the API.

**Review by bollu — COMMENTED** [review]
Overall LGTM, I register a place where I'd like to find an argument that goes through with a higher-level lemma.

File: src/Init/Data/BitVec/Bitblast.lean (hunk 27 above)
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Bitblast.lean]: I moved this into `Data/Int`.
